US06150373
A mixture of 100 mg (0.26 mmol) of 3-(2,6-dichlorophenyl)-7-methane-sulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 0.32 ml (2.6 mmol) of 4-methoxyaniline was heated at 60° C. for 4 hours and then cooled. 10 ml of 2M aqueous hydrochloric acid were added to the residue. The precipitated yellow solid was filtered off, washed in sequence with 2M aqueous hydrochloric acid, water and diethyl ether and then dried to give 45 mg (40%) of 3-(2,6-dichlorophenyl)-3,4-dihydro-7-(4-methoxyanilino)-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a yellow solid of melting point 175° C. (decomposition).

reactant | 3-(2,6-dichlorophenyl)-7-methane-sulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.26 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C14H12Cl2N4O3S
reactant | 4-methoxyaniline | 2.6 mmol, 0.32 ml | COC1=CC=C(N)C=C1 | C7H9NO
solvent | hydrochloric acid | 2M, 10 ml | Cl | ClH
product | 3-(2,6-dichlorophenyl)-3,4-dihydro-7-(4-methoxyanilino)-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 45 mg, 40% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OC)C)=O | C20H17Cl2N5O2
